US04017522
N-methyl-N-(2-trimethylacetoxyethyl)oleamide
N-methyl-N-(2-trimethylacetoxyethyl)oleamide was prepared by the procedure of example 1 from 34 gms. (0.1 mole) of N-methyl-N-(2-hydroxyethyl)oleamide and 12 gms. (0.1 mole) trimethylacetyl chloride. The structure of the final product was characterized on the basis of IR and NMR spectral analyses as described in example 1.

reactant | N-methyl-N-(2-hydroxyethyl)oleamide | 0.1 mole | CN(C(CCCCCCC\C=C/CCCCCCCC)=O)CCO | C21H41NO2
reactant | trimethylacetyl chloride | 0.1 mole | CC(C(=O)Cl)(C)C | C5H9ClO
product | N-methyl-N-(2-trimethylacetoxyethyl)oleamide | CN(C(CCCCCCC\C=C/CCCCCCCC)=O)CCOC(C(C)(C)C)=O | C26H49NO3
